US06949579B2
N-[6-(4-methoxyphenyl)-1H-indazol-3-yl]butanamide
13.6 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 1 g of N-[6-(4-methoxyphenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 30 cm3 of tetrahydrofuran, and the reaction medium is then heated at about 66° C. for 19 hours. The heating is then stopped and 75 cm3 of ethyl acetate are added. This mixture is washed with 2×50 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 50 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with an ethyl acetate/cyclohexane mixture (60/40 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 10 cm3 of diisopropyl ether, filtered and washed with 2×5 cm3 of diisopropyl ether and then with 2×5 cm3 of ethyl acetate; after drying (90 Pa; 50° C.), 500 mg of N-[6-(4-methoxyphenyl)-1H-indazol-3-yl]butanamide are obtained in the form of a white product melting at 210° C.

reactant | tetrabutylammonium fluoride | 13.6 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-(4-methoxyphenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | COC1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C24H33N3O3Si
reactant | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 cm3 | O1CCCC1 | C4H8O
product | N-[6-(4-methoxyphenyl)-1H-indazol-3-yl]butanamide | COC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C18H19N3O2
